US06211242B1
A suspension of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-phthalimidopentyloxy)phenyl]benzamide (1.1 g) in ethanol (20 ml) was stirred rapidly and treated with hydrazine hydrate (844 mg). The mixture was stirred at 60° C. for 3 hours. After cooling, the reaction mixture was diluted with diethyl ether and filtered through Celite. The Celite was washed with diethyl ether, and the filtrate was concentrated. The residual milky oil was again dissolved in diethyl ether, filtered through Celite, washed with diethyl ether, and concentrated to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-aminopentyloxy)phenyl]benzamide

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-phthalimidopentyloxy)phenyl]benzamide | 1.1 g | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCCCN2C(C=3C(C2=O)=CC=CC3)=O)C)C=C1 | C41H37N3O5
reactant | hydrazine hydrate | 844 mg | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-aminopentyloxy)phenyl]benzamide | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCCCN)C)C=C1 | C33H35N3O3
